US08350044B2
To a solution of tert-butyl 2-(5-fluoropyridin-3-yl)thiazol-5-ylcarbamate (1.50 g, 5.08 mmol) in acetonitrile (50 mL) at 0° C. was added N-iodosuccinimide (2.40 g, 10.67 mmol). The mixture was stirred at 0° C. for 5 min and diluted with ethyl acetate and water. The organic phase was separated and rinsed with brine, dried over MgSO4 and concentrated in vacuo to give a dark solid. This solid was passed through a bed of silica gel (100g) eluting with 10% ether in hexanes (600 mL) to give tert-butyl 2-(5-fluoropyridin-3-yl)-4-iodothiazol-5-ylcarbamate as a pale yellow solid (1.80 g, 84% yield): mp 148-149° C.; 1H NMR (300 MHz, CDCl3) δ 8.87 (t, J=1.5 Hz, 1H), 8.47 (d, J=2.7 Hz, 1H), 7.93 (ddd, J=9.0, 2.5, 1.9 Hz, 1H), 7.08 (s, 1H), 1.57 (s, 9H). ESIMS m/z 422.1 (M+1), 420.2 (M-1),

reactant | tert-butyl 2-(5-fluoropyridin-3-yl)thiazol-5-ylcarbamate | 5.08 mmol, 1.50 g | FC=1C=C(C=NC1)C=1SC(=CN1)NC(OC(C)(C)C)=O | C13H14FN3O2S
reactant | N-iodosuccinimide | 10.67 mmol, 2.40 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl 2-(5-fluoropyridin-3-yl)-4-iodothiazol-5-ylcarbamate | 1.80 g, 84% yield | FC=1C=C(C=NC1)C=1SC(=C(N1)I)NC(OC(C)(C)C)=O | C13H13FIN3O2S
